US05849755
3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-6-(methylaminothiocarbonylaminosulfonyl)-7-methoxychroman
0.26 g (3.5 mmol) of methyl isothiocyanate was added to a suspension of 1.14 g (2.5 mmol) of 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-6-sulfamoyl-7-methoxychroman and 1.04 g (7.5 mmol) of finely powdered potassium carbonate in 10 ml of DMSO. After the mixture had been stirred at 80° C. for 25 minutes, it was cooled, introduced into ice/water, clarified with charcoal and acidified to pH 1. The precipitate was filtered off with suction and recrystallized from methanol/DMF. The product had a melting point of 234°-235° C.

reactant | methyl isothiocyanate | 3.5 mmol, 0.26 g | CN=C=S | C2H3NS
reactant | 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-6-sulfamoyl-7-methoxychroman | 2.5 mmol, 1.14 g | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=C(C=C3C2)S(N)(=O)=O)OC)(C)C)C1)OC | C20H23ClN2O6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-6-(methylaminothiocarbonylaminosulfonyl)-7-methoxychroman | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=C(C=C3C2)S(=O)(=O)NC(=S)NC)OC)(C)C)C1)OC | C22H26ClN3O6S2
